* /Users/bsm23/Downloads/timer-electronics/timer.asc
* Generated by LTspice 26.0.2 for MacOS.
R1 xin x2 10Meg
M1 N001 xin vdd vdd MP l=760u w=320u
M2 N001 xin 0 0 MN l=760u w=160u
M3 vout x2 vdd vdd MP l=100u w=800u
M4 vout x2 0 0 MN l=100u w=400u
R2 x2 N001 200k
CL1 xin 0 22p
CL2 x2 0 22p
Cload vout 0 1p
X§U1 x2 xin xtl32 ;§pnba P1)P2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
* CRYSTAL OSCILLATOR DEMO-  32.768 kHz
* FEEDBACK
* AMPLIFIER
* OUTPUT BUFFER
* RESONATOR - the crystal, emulated as a series LRC
* At one frequency Lm and Cm cancel and the branch is just Rm = 30k.
* Everywhere else it is nearly an open circuit. That selectivity is
* the entire reason a crystal works.
* C0 is the plate capacitance. It must stay well under CL1/CL2 or it
* shunts the motional branch and the oscillator will not start.
* Stray board capacitance does exactly this to real designs.
* FEEDBACK - R1 carries no DC current, so it forces Vin = Vout and
* parks the inverter at VS/2, in its LINEAR region. It amplifies
* instead of switching. That is the whole trick.
* THE LOOP: xin -> inverter (180 deg) -> xout -> R2 -> crystal
* with CL1/CL2 (180 deg) -> back to xin. 360 degrees total and
* gain above 1, so it sustains. R2 limits drive into the crystal.
* CL1/CL2 are not decoupling caps - with the crystal they form the
* pi network that supplies the second 180 deg and set the frequency.
.param VS=3.3
Vsup vdd 0 {VS}
.model MN NMOS(VTO=0.7  KP=100u LAMBDA=0.02)
.model MP PMOS(VTO=-0.7 KP=50u  LAMBDA=0.02)
Ikick 0 xin PULSE(0 1u 100u 100n 100n 1u)
.ic V(xin)={VS/2} V(n1)={VS/2} V(n2)={VS/2} V(x2)={VS/2} V(xout)={VS/2}
.tran 0 8m 0 0.2u uic
.options plotwinsize=0
.meas TRAN t1   WHEN V(xin)={VS/2} RISE=1  TD=6m
.meas TRAN t2   WHEN V(xin)={VS/2} RISE=51 TD=6m
.meas TRAN fosc PARAM 50/(t2-t1)
* Crystal - Example ECS-.327-12.5-TR (DigiKey)
* https://www.digikey.com/en/product-highlight/e/ecs/smt-32khz-tuning-fork-crystals
* Library below included based on ModelFile attribute of instance X§U1 (Y:\Downloads\timer-electronics\xtl32.asy)
.lib xtl32.sub
.backanno
.end
