* Copyright (c) 1998-2026 Analog Devices, Inc.  All rights reserved.
*
.subckt xtl32 P1 P2
Lm P1 N001 80.5574
Cm N001 N002 300f
Rm N002 P2 30k
C0 P1 P2 1.35p
.ends xtl32
